### PR TITLE
[Merged by Bors] - chore: Merge the two series of lemmas on big operators in locally finite orders

### PR DESCRIPTION
**Pull request by YaelDillies**
I accidentally introduced those lemmas twice: In #9386 and also in #17280 under different names. I prefer the names I gave in the former, but the file I gave in the latter. Also generalise other lemmas in `Algebra.BigOperators.Intervals`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Review by b-mehta — CHANGES_REQUESTED** [review]
It looks like many of the deletions are missing deprecations.

File: Mathlib/Algebra/Order/BigOperators/Group/LocallyFinite.lean [hunk 1]
```diff
@@ -3,78 +3,126 @@ Copyright (c) 2024 Yaël Dillies. All rights reserved.
...
+variable [LocallyFiniteOrder α] [AddMonoidWithOne α] [SuccAddOrder α] [NoMaxOrder α]
+
+lemma add_sum_Ico_eq_sum_Ico_add_one {M : Type*} [AddCommMonoid M] (hab : a ≤ b) (f : α → M) :
+    ∑ x ∈ Ico a b, f x + f b = ∑ x ∈ Ico a (b + 1), f x := by
+  rw [← Finset.insert_Ico_right_eq_Ico_add_one hab, sum_insert right_not_mem_Ico, add_comm]
+
+@[to_additive existing add_sum_Ico_eq_sum_Ico_add_one]
+lemma mul_prod_Ico_eq_prod_Ico_add_one (hab : a ≤ b) (f : α → M) :
+    (∏ x ∈ Ico a b, f x) * f b = ∏ x ∈ Ico a (b + 1), f x := by
+  rw [← Finset.insert_Ico_right_eq_Ico_add_one hab, prod_insert right_not_mem_Ico, mul_comm]
```
Comment (b-mehta) [inline Mathlib/Algebra/Order/BigOperators/Group/LocallyFinite.lean:113]: The naming of these is inconsistent with the others

File: Mathlib/Algebra/Order/BigOperators/Group/LocallyFinite.lean [hunk 2]
```diff
@@ -3,78 +3,126 @@ Copyright (c) 2024 Yaël Dillies. All rights reserved.
...
 @[to_additive]
-lemma left_mul_prod_Ioc (h : a ≤ b) : f a * ∏ x ∈ Ioc a b, f x = ∏ x ∈ Icc a b, f x := by
-  rw [Icc_eq_cons_Ioc h, prod_cons]
+lemma mul_prod_Ico_eq_prod_Icc (h : a ≤ b) : f b * ∏ x ∈ Ico a b, f x = ∏ x ∈ Icc a b, f x := by
+  rw [Icc_eq_cons_Ico h, prod_cons]
 
-@[to_additive]
-lemma prod_Ioc_mul_left (h : a ≤ b) : (∏ x ∈ Ioc a b, f x) * f a = ∏ x ∈ Icc a b, f x := by
-  rw [mul_comm, left_mul_prod_Ioc h]
+@[deprecated (since := "2025-05-03")] alias right_mul_prod_Ico := mul_prod_Ico_eq_prod_Icc
```
Comment (b-mehta) [inline Mathlib/Algebra/Order/BigOperators/Group/LocallyFinite.lean:32]: Don't forget to deprecate the additive versions too.

File: Mathlib/Algebra/Order/BigOperators/Group/LocallyFinite.lean [hunk 3]
```diff
@@ -3,78 +3,126 @@ Copyright (c) 2024 Yaël Dillies. All rights reserved.
...
 @[to_additive]
-lemma left_mul_prod_Ioo (h : a < b) : f a * ∏ x ∈ Ioo a b, f x = ∏ x ∈ Ico a b, f x := by
-  rw [Ico_eq_cons_Ioo h, prod_cons]
+lemma mul_prod_Ioc_eq_prod_Icc (h : a ≤ b) : f a * ∏ x ∈ Ioc a b, f x = ∏ x ∈ Icc a b, f x := by
+  rw [Icc_eq_cons_Ioc h, prod_cons]
 
-@[to_additive]
-lemma prod_Ioo_mul_left (h : a < b) : (∏ x ∈ Ioo a b, f x) * f a = ∏ x ∈ Ico a b, f x := by
-  rw [mul_comm, left_mul_prod_Ioo h]
+@[deprecated (since := "2025-05-03")] alias left_mul_prod_Ioo := mul_prod_Ioc_eq_prod_Icc
```
Comment (b-mehta) [inline Mathlib/Algebra/Order/BigOperators/Group/LocallyFinite.lean:44]: This looks like a very confusing deprecation: the old one was about multiplying into an Ioo to make an Ico, but the proposed replacement multiplies into an Ioc to make an Icc.

File: Mathlib/Algebra/Order/BigOperators/Group/LocallyFinite.lean [hunk 4]
```diff
@@ -3,78 +3,126 @@ Copyright (c) 2024 Yaël Dillies. All rights reserved.
...
 
 @[to_additive]
-lemma right_mul_prod_Ioo (h : a < b) : f b * ∏ x ∈ Ioo a b, f x = ∏ x ∈ Ioc a b, f x := by
-  rw [Ioc_eq_cons_Ioo h, prod_cons]
+lemma prod_Ioc_mul_eq_prod_Icc (h : a ≤ b) : (∏ x ∈ Ioc a b, f x) * f a = ∏ x ∈ Icc a b, f x := by
+  rw [mul_comm, mul_prod_Ioc_eq_prod_Icc h]
+
+@[deprecated (since := "2025-05-03")] alias prod_Ioo_mul_left := prod_Ioc_mul_eq_prod_Icc
```
Comment (b-mehta) [inline Mathlib/Algebra/Order/BigOperators/Group/LocallyFinite.lean:50]: as before

File: Mathlib/Algebra/Order/BigOperators/Group/LocallyFinite.lean [hunk 5]
```diff
@@ -3,78 +3,126 @@ Copyright (c) 2024 Yaël Dillies. All rights reserved.
...
 
 @[to_additive]
-lemma prod_Ioo_mul_right (h : a < b) : (∏ x ∈ Ioo a b, f x) * f b = ∏ x ∈ Ioc a b, f x := by
-  rw [mul_comm, right_mul_prod_Ioo h]
+theorem prod_eq_prod_Ico_succ_bot {a b : ℕ} (hab : a < b) (f : ℕ → M) :
+    ∏ k ∈ Ico a b, f k = f a * ∏ k ∈ Ico (a + 1) b, f k := by
+  have ha : a ∉ Ico (a + 1) b := by simp
+  rw [← prod_insert ha, Finset.insert_Ico_add_one_left_eq_Ico hab]
+
+@[deprecated (since := "2025-05-03")] alias prod_Ioo_mul_right := prod_eq_prod_Ico_succ_bot
```
Comment (b-mehta) [inline Mathlib/Algebra/Order/BigOperators/Group/LocallyFinite.lean:60]: similar to before

**Review by b-mehta — CHANGES_REQUESTED** [review]

File: Mathlib/Algebra/Order/BigOperators/Group/LocallyFinite.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/BigOperators/Group/LocallyFinite.lean:44]: Thanks for the fresh pair of eyes, this was a weird PR to keep afloat, and not everything stayed as intended

File: Mathlib/Algebra/Order/BigOperators/Group/LocallyFinite.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/BigOperators/Group/LocallyFinite.lean:32]: It's honestly a bit too much work for an API that was introduced right before that PR

**Review by b-mehta — COMMENTED** [review]
Thanks! Hopefully soon the finset interval API will finally become usable :)

bors merge
